US04243678
20.0 g of 2-aminobiphenyl, 15.3 g of ethyldiisopropylamine and 26.3 g of ethyl 6-bromocaproate are reacted, analogously to Example 47a), to obtain 36.0 g of ethyl 6-(biphenyl-2-yl)aminocaproate as a non-crystallizing oil. 18.0 g of this ester are reacted, analogously to Example 47b), with 7.5 g of ethyldiisopropylamine and 10.1 g of p-chlorobenzoyl chloride in 70 ml of benzene. The resulting reaction product is purified chromatographically over a silica gel column (eluent: methylene chloride) to obtain 11.5 g (44.2% of theory) of ethyl 6-[p-chloro-N-(biphenyl-2-yl)benzamido]caproate as a viscous non-distillable oil. Saponification of this ester yields 8.1 g (75.1% of theory) of 6-[p-chloro-N-(biphenyl-2-yl)benzamido]caproic acid, MP 93° to 95°.

reactant | 2-aminobiphenyl | 20.0 g | NC1=C(C=CC=C1)C1=CC=CC=C1 | C12H11N
reactant | ethyldiisopropylamine | 15.3 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | ethyl 6-bromocaproate | 26.3 g | BrCCCCCC(=O)OCC | C8H15BrO2
product | ethyl 6-(biphenyl-2-yl)aminocaproate | 36.0 g | C1(=C(C=CC=C1)NCCCCCC(=O)OCC)C1=CC=CC=C1 | C20H25NO2
